US05536701
3-(1,1-Dimethylethyl)-1-methyl-1H-pyrazol-5-ol (1.12 g, 0.0073 moles) which is a known compound, 3-chloro-5-methoxypyridazine (1.02 g, 0.0071 mole), potassium carbonate (1.87 g, 0.0136 mole), and CuBr (1.05 g, 0.0073 mole) were added to dry dimethyl-sulfoxide (12 mL). The mixture was stirred under N2 at 95° C. for 7 h. The mixture was then poured into saturated ammonium chloride and extracted 2×100 mL with ethyl acetate. The organic layer was dried (MgSO4), filtered through silica gel with ethyl acetate and evaporated in vacuo. The crude oil was flash chromatographed to give 3-[[3-(1,1-dimethylethyl)-1-methyl-1H-pyrazol-5-yl]oxy-5-methoxypyridazine (1.14 g, 62% yield) as an oil which solidified upon standing to a white solid.

reactant | 3-(1,1-Dimethylethyl)-1-methyl-1H-pyrazol-5-ol | 0.0073 moles, 1.12 g | CC(C)(C)C1=NN(C(=C1)O)C | C8H14N2O
reactant | 3-chloro-5-methoxypyridazine | 0.0071 mole, 1.02 g | ClC=1N=NC=C(C1)OC | C5H5ClN2O
reactant | potassium carbonate | 0.0136 mole, 1.87 g | C([O-])([O-])=O.[K+].[K+]
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | dimethyl-sulfoxide | 12 mL | CS(=O)C | C2H6OS
product | [3-(1,1-dimethylethyl)-1-methyl-1H-pyrazol-5-yl]oxy-5-methoxypyridazine | 1.14 g, 62% yield | CC(C)(C)C1=NN(C(=C1)OC=1N=NC=C(C1)OC)C | C13H18N4O2
